US08461158B2
Sequential reaction of tert-butyl 4-[[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl](3-hydroxypropyl)amino]-1-piperidinecarboxylate with methanesulfonyl chloride and tert-butyl 1-piperazinecarboxylate gave tert-butyl 4-(3-{[1-(tert-butoxycarbonyl)-4-piperidinyl][4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]amino}propyl)-1-piperazinecarboxylate, as an oil; 1H NMR (DMSO-d6) (rotamers) δ 7.94 and 7.90 (2d, J=8.4, 8.3 Hz, 1H), 7.72 and 7.70 (2t, JHF=53.1 53.0 Hz, 1H), 7.42 and 7.38 (2t, J=8.2 Hz, 1H) 6.95 (d, J=8.1 Hz, 1H), 4.75-4.64 and 4.58-4.50 (2m, 1H), 4.14-4.05 (m, 2H), 3.98 and 3.96 (2s, 3H), 3.80-3.77 (m, 4H), 3.69 (br m, 4H), 3.55-3.45 (m, 2H), 2.55-2.50 (m, 4), 2.37-2.28 (m, 9H), 1.67 (br, 5H), 1.42 (s, 9H), 1.39 (s, 9H).

reactant | tert-butyl 4-[[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl](3-hydroxypropyl)amino]-1-piperidinecarboxylate | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CCN(CC1)C(=O)OC(C)(C)C)CCCO)C=CC=C2OC)F | C29H40F2N8O5
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | tert-butyl 4-(3-{[1-(tert-butoxycarbonyl)-4-piperidinyl][4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]amino}propyl)-1-piperazinecarboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CCCN1CCN(CC1)C(=O)OC(C)(C)C)C1=NC(=NC(=N1)N1C(=NC2=C1C=CC=C2OC)C(F)F)N2CCOCC2 | C38H56F2N10O6
